*****************************************************************
* NXP PSMN7R5-25YLC
*
* Polarity N-Channel
* Ratings 25V/7.400000E-003OHMS/56A
*
* Date Created Tue Aug 30 07:13:12 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R5-25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00488328653330938 TC=0.00460071480424257,5.40689855699401E-06
RBD 9 4 0.0023164117281325 TC=0.00460071480424257,5.40689855699401E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 8.30022547466953e-10
RG 1 2 2.17663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	907
+ -10	810
+ -5	780
+ -4	706
+ -3	646
+ -2	582
+ -1	475.36
+ -0.5	433.4
+ -0.2	406.47
+ -0.1	396.77
+ 0	356.82
+ 0.1	318.21
+ 0.2	308.62
+ 0.5	280.63
+ 1	226.5
+ 2	147.62
+ 3	122.12
+ 4	110
+ 5	102.45
+ 6	97.09
+ 8	89.98
+ 10	85.45
+ 12	82.3
+ 15	78.95
+ 20	74.22
+ 25	69.49



.MODEL MINT NMOS(Vto=1.9707504443817 Kp=1.289665e+002 Nfs=480000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=30 Ibv=2.500000E-004 Rs=1E-6 Is=5.8168409708212e-13
+ N=1 M=0.56 VJ=0.54 Fc=0.5 Cjo=9.7036e-10 Tt=2.12e-08)

.ENDS

